US06864265B2
2-Bromo-3-but-3-enyloxy-pyridine
To a solution of triphenylphosphine (903 mg, 3.44 mmol), 3-buten-1-ol (0.25 mL, 2.88 mmol) and 2-bromo-3-pyridinol (500 mg, 2.87 mmol) in THF (26 mL) at 0° C. was added dropwise diethyl azodicarboxylate (0.50 mL, 3.14 mmol). The ice bath was removed and the mixture was allowed to stir at 50° C. for 18 hours under N2. The reaction mixture was diluted with ethyl acetate (300 mL), and washed with sat. NaHCO3, then brine and dried over Na2SO4. Evaporation of the solvent and purification of the residue by flash chromatography on silica gel, using 10% ethyl acetate in hexanes, afforded the title compound (514 mg, 78%) as pale yellow solid. 1H NMR (CDCl3) □2.58-2.66 (m, 2H), 4.08 (t, 2H, J=6.9 Hz), 5.13-5.24 (m, 2H), 5.87-5.98 (m, 1H), 7.10-7.14 (m, 1H), 7.18-7.22 (m, 1H), 7.97 (dd, 1H, J=1.5, 6.0 Hz).

reactant | triphenylphosphine | 3.44 mmol, 903 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-buten-1-ol | 2.88 mmol, 0.25 mL | C(CC=C)O | C4H8O
reactant | 2-bromo-3-pyridinol | 2.87 mmol, 500 mg | BrC1=NC=CC=C1O | C5H4BrNO
reactant | diethyl azodicarboxylate | 3.14 mmol, 0.50 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 26 mL | C1CCOC1 | C4H8O
product | 2-Bromo-3-but-3-enyloxy-pyridine | 514 mg, 78% | BrC1=NC=CC=C1OCCC=C | C9H10BrNO
